### PR TITLE
Refactor chapter 2

### PR DESCRIPTION
**Pull request by MithicSpirit**
This also required proving some more lemmas in chapter 1

TODO:
- [ ] consider removing more from chapter 2
- [ ] explain ext
- [ ] add chapter 1 lemmas to blueprint
- [x] consider adding automorphism groups to chapter 2

### CODE REVIEW

**Comment by MithicSpirit** [comment]
@4rim @dominicking7

What are your opinions on removing sheet 2? It feels really out of place, as GCD and co. are not mentioned elsewhere at all. IMO it would be better in chapter 4 (quotient groups) and/or in ring theory (that's when they should see it in class).

What about removing the examples in sheet 3 that use Mathlib "isomorphisms" (`AddEquiv`)? I am very staunchly against keeping `AddEquiv` stuff in, the first one has been added to sheet 4 (but for an arbitrary abelian group), and the other ones feel kinda jank imo.

File: AlgebraInLean/Chapter02/Sheet01.lean [hunk 1]
```diff
@@ -3,252 +3,90 @@ import AlgebraInLean.Chapter02.Sheet00
...
 
 /-
+Given a group G and a group H, a group homomorphism is a map φ from G to H which "preserves" or
+"respects" the group structure. That is, given elements a, b ∈ G, φ(a ⬝ b) = φ(a) ⬝ φ(b).
 
-# Morphisms
+In other words, you can combine a and b in G, and then apply φ, or apply φ to a and b individually,
+and then combine them in H.
 
-Morphisms are structure-preserving maps between objects in a category. Think of a category as a
```
Comment (dominicking7) [inline AlgebraInLean/Chapter02/Sheet01.lean]: Confused about these deleted sections? Did you rework them onto another sheet?

File: AlgebraInLean/Chapter02/Sheet01.lean [hunk 2]
```diff
@@ -3,252 +3,90 @@ import AlgebraInLean.Chapter02.Sheet00
...
 
-/- An injective and surjective function is bijective -/
-example (f : α → β) (h1 : Injective f) (h2 : Surjective f)
-: (Bijective f) := by
-  rw [Bijective]
-  constructor <;> assumption
+def Group.Homomorphism (φ : G → H) : Prop := ∀ a b : G, μ (φ a) (φ b) = φ (μ a b)
 
 /-
-
```
Comment (dominicking7) [inline AlgebraInLean/Chapter02/Sheet01.lean]: See above comment ^

File: AlgebraInLean/Chapter02/Sheet04.lean [hunk 3]
```diff
@@ -4,196 +4,209 @@ set_option linter.unusedTactic false
...
-`AlgebraInLean`, this means that a _group_ endomporphism is a group homomorphism from an
-arbitrary group G back to itself.
-
-As you have seen previously, in the context of Algebra, "group" is often omitted when discussing
-group endomorphisms. An endomorphism (and morphisms in general) can be defined among many
-different types of mathematical objects, but in AlgebraInLean it will always refer to a group
-endomorphism.
-
-Let's take a look at how this would be defined in Lean:
+Another special structure of morphism is the endomorphism, which is a morphism from an object to
```
Comment (dominicking7) [inline AlgebraInLean/Chapter02/Sheet04.lean:8]: Lots of rewording here?

File: AlgebraInLean/Chapter02/Sheet04.lean [hunk 4]
```diff
@@ -4,196 +4,209 @@ set_option linter.unusedTactic false
...
-structure" looks like in the next chapter (keep an eye out for orders!).
-
+Hint: see `inv_anticomm`
 -/
-
-/- You may be able to intuitively discern that all automorphisms are also isomoprhisms.
-Lets do a brief exercise to prove this before jumping into some more complex examples. -/
-theorem aut_isomoprhism (φ : G → G) (h : Automorphism φ) : Isomorphism φ := by
+/-- -/
+theorem Group.inv_automorphism [AbelianGroup G] : Isomorphism (ι : G → G) := by
```
Comment (dominicking7) [inline AlgebraInLean/Chapter02/Sheet04.lean:31]: This was not the proof that we had originally intended here -- Will recommended we add a short exercise proving that all automorphisms are also isomorphisms and I thought that was helpful

File: AlgebraInLean/Chapter02/Sheet04.lean [hunk 5]
```diff
@@ -4,196 +4,209 @@ set_option linter.unusedTactic false
...
-    /- Injectivity -/
-    · intros x y h
-      unfold φ at h
-      exact neg_inj.mp h
-    /- Surjectivity -/
-    · intro z
-      use -z
-      unfold φ
-      rw [neg_neg]
+  · intro a b
```
Comment (dominicking7) [inline AlgebraInLean/Chapter02/Sheet04.lean:91]: Also a bit confused with the particular style of this proof. Obviously we have different proofing styles overall...was there something particularly wrong with the original?

Comment (dominicking7) [reply AlgebraInLean/Chapter02/Sheet04.lean:91]: Sorry just noticed that you changed the original example overall. Did you not want to include the first example about automorphisms? I think it is a lot to throw users immediately into proving that conjugation is an automorphism

File: AlgebraInLean/Chapter02/Sheet04.lean [hunk 6]
```diff
@@ -4,196 +4,209 @@ set_option linter.unusedTactic false
...
-
+We could also consider automorphisms of other algebraic structures (or even other categories). In
+the most basic case where there are no operations or properties to preserve, we that the
+automorphisms are just bijections from a set to itself, which (in the finite case) is just the
+symmetric group! This means that group-automorphism group is contained within a symmetric group,
+which means that it is a subgroup. The next chapter discusses this relation between groups more
+in-depth.
 -/
-
-
```
Comment (dominicking7) [inline AlgebraInLean/Chapter02/Sheet04.lean]: :(

**Comment by dominicking7** [comment]
> @4rim @dominicking7
> 
> What are your opinions on removing sheet 2? It feels really out of place, as GCD and co. are not mentioned elsewhere at all. IMO it would be better in chapter 4 (quotient groups) and/or in ring theory (that's when they should see it in class).
> 
> What about removing the examples in sheet 3 that use Mathlib "isomorphisms" (`AddEquiv`)? I am very staunchly against keeping `AddEquiv` stuff in, the first one has been added to sheet 4 (but for an arbitrary abelian group), and the other ones feel kinda jank imo.

Honestly I like Sheet 2 as is -- although the content may not be specifically tied to Sheets 3 and 4, I think it provides another whole area of lean for the students to become familiar with. We had also discussed with Anoushka and she had approved going forward with a short interlude on ModArith. 

I think trying to overhaul the content and purpose of Chapter 2 this late in the game isn't exactly where we should be focusing our efforts -- Arim and I have to completely finish the blueprint and also focus on working on the presentation and what our specific roles in that presentation will be in regards to Ch2. 

I'm not opposed to removing more content from Sheet0 (as we discussed at the end of the meeting today), but I also think much of the content is more than adequate as is, and was also approved by two people previously. Lmk thoughts, and can discuss again further tomorrow but again the goal is probably to not have too much more content to add to Ch2 and to also not change the original vision we had for the chapter. Definitely welcome @4rim 's input on this as well...

File: AlgebraInLean/Chapter02/Sheet01.lean (hunk 1 above)
Comment (MithicSpirit) [reply AlgebraInLean/Chapter02/Sheet01.lean]: If you mean the section headings (like `# Morphisms`) I removed those since they aren't used elsewhere in the other chapters. I reworded this explanation to be more concise and put less emphasis on [abstract nonsense](https://en.wikipedia.org/wiki/Abstract_nonsense) (category theory) since I think that distracts too much from the content at hand (students that are interested can still open the link and read an explanation that's much better than anything we could write here). Reading this again, I do think that I should add back the examples of linear transformations and such.

File: AlgebraInLean/Chapter02/Sheet01.lean (hunk 2 above)
Comment (MithicSpirit) [reply AlgebraInLean/Chapter02/Sheet01.lean]: We already discussed `all_goals` before, so I don't think there's really a need to explain `<;>`, especially in such depth. Maybe I should mention that it can serve as a shorter alternative somewhere.

File: AlgebraInLean/Chapter02/Sheet04.lean (hunk 3 above)
Comment (MithicSpirit) [reply AlgebraInLean/Chapter02/Sheet04.lean:8]: Yeah. There's no reason for Endomorphism and Automorphism to have their own definitions, since that part is already encoded in the type of the function itself. We also don't really use endomorphisms, so I cut down that part to go straight to automorphisms. I guess we could prove that the set of endomorphisms forms a monoid, but that feels like it's going too far.

File: AlgebraInLean/Chapter02/Sheet04.lean (hunk 4 above)
Comment (MithicSpirit) [reply AlgebraInLean/Chapter02/Sheet04.lean:31]: It's not meant to be that (git can't really do a good job of what changes correspond to what when there are this many of them). That exercise doesn't really matter now that I'm just using `Isomorphism` for automorphisms (see response above). This proof is meant to be a more general version of the negation one.

File: AlgebraInLean/Chapter02/Sheet04.lean (hunk 5 above)
Comment (MithicSpirit) [reply AlgebraInLean/Chapter02/Sheet04.lean:91]: I replaced that one with the more general one for an arbitrary inverse. I could bring back the negation one if you want (maybe as a warmup for the general one?).

File: AlgebraInLean/Chapter02/Sheet04.lean (hunk 6 above)
Comment (MithicSpirit) [reply AlgebraInLean/Chapter02/Sheet04.lean]: Chapter 1 didn't have a sendoff, so I thought it was weird to have one here. I think that the discussion of subgroups works well enough as a segue into chapter 3. I did keep the "That proof was tough" though, it's just up higher since I added the automorphism group stuff.

**Comment by MithicSpirit** [comment]
> Honestly I like Sheet 2 as is -- although the content may not be specifically tied to Sheets 3 and 4, I think it provides another whole area of lean for the students to become familiar with. We had also discussed with Anoushka and she had approved going forward with a short interlude on ModArith.

I'd prefer it if these chapters were more focused, but if other people want it there, then I'll acquiesce. Maybe the name could be changed to `Sheet02-Interlude.lean` and some comments could be added to make it clearer that this is a separate topic that will not connect to the rest of the content until later? 

> I think trying to overhaul the content and purpose of Chapter 2 this late in the game isn't exactly where we should be focusing our efforts -- Arim and I have to completely finish the blueprint and also focus on working on the presentation and what our specific roles in that presentation will be in regards to Ch2.

I tried my best to not overhaul stuff as much as possible (I'm technically just a manager, after all), but I felt like the chapter didn't really have that much group theory stuff compared to the others, so I wanted to add some more. The Mathlib (`Add`)`Equiv` stuff had to go since it doesn't work well with anything else, and I also tried to remove redundant theorems. I'll try to change the other Mathlib stuff to use our own groups.

I would recommend being quite selective with what stuff from sheet 0 you include in the blueprint, since it's not group theory. IMO definitely don't include anything from sheet 2 there since it's completely separate from the rest.

> I'm not opposed to removing more content from Sheet0 (as we discussed at the end of the meeting today), but I also think much of the content is more than adequate as is, and was also approved by two people previously. Lmk thoughts, and can discuss again further tomorrow but again the goal is probably to not have too much more content to add to Ch2 and to also not change the original vision we had for the chapter. Definitely welcome @ 4rim 's input on this as well...

Other than the redundant theorems, I think sheet 0 is pretty good. I had to add some theorems to it to simplify some proofs in the later chapters. You can cull it back down if you want, but I fear the chapter will feel out of place if there's less group theory content.

File: AlgebraInLean/Chapter02/Sheet04.lean (hunk 5 above)
Comment (MithicSpirit) [reply AlgebraInLean/Chapter02/Sheet04.lean:91]: As for the proof style stuff, I refactored most of the forward reasoning into backward reasoning. Since this is meant to get them used to how people use Lean properly, and Lean people usually prefer backward reasoning, I think this is helpful. A lot of these proofs lend themselves well to `calc` blocks, but I didn't want to have to explain those on such a short timeline. We could add back more forward reasoning if you want.

**Comment by 4rim** [comment]
> Maybe the name could be changed to Sheet02-Interlude.lean and some comments could be added to make it clearer that this is a separate topic that will not connect to the rest of the content until later?

Seems like a good compromise. (I had decided to add this chapter under the assumption that we were going to use Z/nZ in our chapter somewhere, but that seemed like a group better treated in the quotients chapter, so it is a bit like a vestigial organ.)

I appreciate the shift towards backwards-reasoning proofs; god knows I overuse `have`. I wonder if it would be possible to have multiple solutions for a single exercise, with one being more backwards-reasoning and the other being more forwards. Would that be impractical?

As for the sheet with Mathlib `Equiv` stuff---I thought it would be interesting to expose the students to (a small part of) Mathlib's implementation of groups, as well as a slightly different proof style. But I see your point that it doesn't cohere incredibly well with the rest of the chapter.

My main concern here is the timeline. I know that Chapter 3 depends on some definitions and theorems from Chapter 2, so we would want to merge this by today's session at the latest. I'm not sure if making any major changes, content-wise, would be conducive to that. I'd prefer merging Chapter 2 more-or-less as is (with some of your changes in this PR) as soon as possible. 

I'm open to major changes, but I'd suggest that they be done after we are able to present a minimally viable deliverable (and presentation).

**Comment by MithicSpirit** [comment]
> Seems like a good compromise. (I had decided to add this chapter under the assumption that we were going to use Z/nZ in our chapter somewhere, but that seemed like a group better treated in the quotients chapter, so it is a bit like a vestigial organ.)

Ah, that's fair. It would've been a nice sneak peek at quotient groups.

> I appreciate the shift towards backwards-reasoning proofs; god knows I overuse `have`. I wonder if it would be possible to have multiple solutions for a single exercise, with one being more backwards-reasoning and the other being more forwards. Would that be impractical?

We could have a second solution using just `example` (rather than `theorem`) that gets completely removed by the exercise builder, or we could just switch around between using forward or backward reasoning for different proofs.

> As for the sheet with Mathlib `Equiv` stuff---I thought it would be interesting to expose the students to (a small part of) Mathlib's implementation of groups, as well as a slightly different proof style. But I see your point that it doesn't cohere incredibly well with the rest of the chapter.

I considered using type equivalence (*not* algebraic equivalence) rather than bijection defining for isomorphism. This would obviate sheet 0 (since we wouldn't need to work with bijections anymore, although maybe we could pivot it into proving that bijection is equivalent to type equivalence), but it does have a few benefits:
- Uses the actual definition of isomorphism in category theory (morphism with an inversef);
- Also used in the symmetric group by @MAO3J1m0Op;
- Easier to work with due to the presence of `inv_fun`; and
- Don't need to worry about `noncomputable` yet.

> My main concern here is the timeline. I know that Chapter 3 depends on some definitions and theorems from Chapter 2, so we would want to merge this by today's session at the latest. I'm not sure if making any major changes, content-wise, would be conducive to that. I'd prefer merging Chapter 2 more-or-less as is (with some of your changes in this PR) as soon as possible.
> 
> I'm open to major changes, but I'd suggest that they be done after we are able to present a minimally viable deliverable (and presentation).

Yeah, that's fair. We could just do some quick and dirty formatting improvements for now, and then do a proper refactor of chapter 2 when we don't have a deadline looming over us like this.

File: AlgebraInLean/Chapter02/Sheet03.lean [hunk 7]
```diff
@@ -1,51 +1,116 @@
...
+  rintro ⟨hφ₁, hφ₂⟩ ⟨hψ₁, hψ₂⟩
+  constructor
+  · exact homomorphism_comp hφ₁ hψ₁
+  · exact bijective_comp hφ₂ hψ₂
+  -- END SAMPLE SOLUTION
+  done
 
--/
+/-- If G is isomorphic to H and H is isomorphic to K, then G is isomorphic to K -/
+theorem Group.isomorphic_transitive : Isomorphic G H → Isomorphic H K → Isomorphic G K := by
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/Chapter02/Sheet03.lean:63]: Rename to `isomorphic_trans`

File: AlgebraInLean/Chapter02/Sheet04.lean [hunk 8]
```diff
@@ -4,196 +4,209 @@ set_option linter.unusedTactic false
...
+    done
 
 /-
-
-That proof was tough! But, it was a great exercise for you to prove in the most arbitrary sense,
-since such a proof will be useful later when learning about group actions and automorphism
-groups (meaning this sheet will likely be referenced in later chapters as one to come back to)!
-
+We could also consider automorphisms of other algebraic structures (or even other categories). In
+the most basic case where there are no operations or properties to preserve, we that the
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/Chapter02/Sheet04.lean:207]: >we that

Typo; missing verb

**Comment by Stavan-Jain** [comment]
I agree with @4rim that we shouldn't overhaul the content in Chapter 2 given that we want to merge this branch in the next few hours. It doesn't seem reasonable for all of us to review all of the changes and come to a consensus so quickly, especially as there are clear differences in our ideas for what content should be covered. After our presentation on Friday, we can certainly include a lot of @MithicSpirit's changes.
